US08648087B2
Step D: Preparation of N-(3-methyl-4-(1-methyl-1H-benzo[d]imidazol-5-yloxy)phenyl)formamide:
4-(4-amino-2-methylphenoxy)-N1-methylbenzene-1,2-diamine (1.52 g, 6.25 mmol) was dissolved in formic acid (15 mL) and heated to reflux for 6 hours. After cooling to room temperature, the mixture was diluted water (100 mL) and neutralized with sodium bicarbonate. The mixture was partitioned between water and dichloromethane. The organic layer was washed with aqueous NaHCO3, brine, dried over Na2SO4, filtered and concentrated under reduced pressure to provide the product (1.70 g, 97%).

reactant | 4-(4-amino-2-methylphenoxy)-N1-methylbenzene-1,2-diamine | 6.25 mmol, 1.52 g | NC1=CC(=C(OC=2C=C(C(=CC2)NC)N)C=C1)C | C14H17N3O
reactant | water | 100 mL | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | formic acid | 15 mL | C(=O)O | CH2O2
product | N-(3-methyl-4-(1-methyl-1H-benzo[d]imidazol-5-yloxy)phenyl)formamide | 1.70 g, 97% | CC=1C=C(C=CC1OC1=CC2=C(N(C=N2)C)C=C1)NC=O | C16H15N3O2
